Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
unknown BP med / cough / lisinopril
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
================
___ 11:05AM BLOOD WBC-8.5 RBC-4.61 Hgb-14.5 Hct-44.9 MCV-97 
MCH-31.5 MCHC-32.3 RDW-12.8 RDWSD-45.4 Plt ___
___ 11:05AM BLOOD Neuts-69.2 ___ Monos-4.1* 
Eos-0.1* Baso-0.8 Im ___ AbsNeut-5.85 AbsLymp-2.15 
AbsMono-0.35 AbsEos-0.01* AbsBaso-0.07
___ 11:05AM BLOOD Glucose-114* UreaN-18 Creat-1.0 Na-142 
K-4.1 Cl-103 HCO3-22 AnGap-17
___ 11:05AM BLOOD ALT-18 AST-24 AlkPhos-62 TotBili-0.6

DISCHARGE LABS:
===============
___ 07:45AM BLOOD Glucose-107* UreaN-20 Creat-0.9 Na-140 
K-4.1 Cl-105 HCO3-22 AnGap-13
 
Brief Hospital Course:
TRANSLATIONAL ISSUES:
======================
[ ] No new meds added for a-fib, given clear trigger and 
baseline rhythm of sinus bradycardia (HR at home is sometimes in 
the ___.
[ ] Please follow up on other colon cancer screening options 
[ ] Patient states that she would like additional help with 
emotional management as she has noticed that she gets frustrated 
easily by small annoyances, and that her BP increases with 
stress. Consider SSRI trial and/or referral for CBT.
[ ] Patient will likely need assistance in finding new live-in 
assistance

#CONTACT: son ___ ___

PATIENT SUMMARY
===================
___ year old female with HTN, HLD, stroke in ___ w/ persistent L 
sided weakness (on apixaban, suggesting they identified a-fib at 
that time?), who presented in a-fib with RVR iso colonoscopy 
prep, now back in sinus rhythm after fluid resuscitation and IV 
Diltiazem. 

ACUTE ISSUES:
=============
#Atrial fibrillation with RVR
CHADS2VASC score is 6, was possibly diagnosed with a.fib in ___ 
at the time of her stroke. Most likely trigger for her afib was 
volume depletion in the setting of her colonoscopy prep. She had 
a recent TSH that was normal, TTE in ___ did not show 
significant left atrial dilation. Reverted back to sinus rhythm 
after IV Diltiazem and fluid resuscitation. PLAN: Continue 
continue home apixaban 5mg BID, continue home metop XL 25 daily. 
Chose not to increase metoprolol dose because patient states 
that when she check HR at home it is sometimes in the ___. 

#Colon cancer screening
She was initially at ___ for elective colonoscopy. She does 
not wish to undergo colonoscopy now. Discussed with patient that 
she can follow up with PCP for further screening 
recommendations. FIT testing may be an option. 

#HTN
Seen in ___ clinic ___ when amlodipine was added to home 
regimen. Blood pressure has been difficult to control and 
patient states that she would like additional help with 
emotional management as she has noticed that BP increases with 
stress. PLAN: continue amlodipine 5mg, HCTZ 25mg, losartan 
100mg, metop XL 25mg. Consider adding SSRI for emotional 
management. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Vitamin D 1000 UNIT PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Losartan Potassium 100 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Pravastatin 20 mg PO QPM 
8. Senna 8.6 mg PO DAILY:PRN Constipation - First Line 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Apixaban 5 mg PO BID  
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Losartan Potassium 100 mg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Pravastatin 20 mg PO QPM  
7.  Senna 8.6 mg PO DAILY:PRN Constipation - First Line  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: 
===================
Atrial fibrillation with rapid ventricular rate
Colon cancer screening 
Hypertension 

SECONDARY DIAGNOSES: 
====================
Prior stroke
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because your heart was beating fast 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We gave you some medications to slow down your heart rate
- You were given fluids through the IV 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

We wish you the best! 

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___